US05786379
(b) Preparation of 3-(1-adamantyl)-4-methoxycarbonylmethyloxybenzoic acid
2.34 g (5.38 mmol) of benzyl 3-(1-adamantyl)-4-methoxycarbonylmethyloxybenzoate, 40 ml of dioxane, 500 μl of acetic acid and 234 mg of palladium (10%) were introduced into a reactor. The mixture was hydrogenated at 40° C. and at a pressure of 7 bar for three hours. The catalyst was filtered off and the mixture was evaporated to dryness. The solid obtained was triturated from hexane, filtered off and dried. 1.74 g (94%) of the expected acid, having a melting point of 230°-1° C., was recovered.

reactant | benzyl 3-(1-adamantyl)-4-methoxycarbonylmethyloxybenzoate | 5.38 mmol, 2.34 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OCC3=CC=CC=C3)C=CC2OCC(=O)OC | C27H30O5
reactant | dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | 234 mg | [Pd] | Pd
solvent | acetic acid | 500 μl | C(C)(=O)O | C2H4O2
product | 3-(1-adamantyl)-4-methoxycarbonylmethyloxybenzoic acid | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)O)C=CC2OCC(=O)OC | C20H24O5
